US04097487
By following general method B using 0.9 g. of 3-ethylsulfonyl-6-methoxybenzoic acid and 0.9 g. of N-(2',4'-dichlorophenylmethyl)-N'-ethylethylenediamine, 1.5 g. of N-[2-(N'-2',4'-dichlorophenylmethyl)-N'-ethylamino)ethyl]-3-ethylsulfonyl-6-methoxybenzamide was obtained.

reactant | 3-ethylsulfonyl-6-methoxybenzoic acid | C(C)S(=O)(=O)C=1C=C(C(=O)O)C(=CC1)OC | C10H12O5S
reactant | N-(2',4'-dichlorophenylmethyl)-N'-ethylethylenediamine | ClC1=C(C=CC(=C1)Cl)CNCCNCC | C11H16Cl2N2
product | 3-ethylsulfonyl-6-methoxybenzamide | C(C)S(=O)(=O)C=1C=C(C(=O)N)C(=CC1)OC | C10H13NO4S
